US06476040B1
Preparation of N-(3-ethynylphenyl)-6,7-bis(2-methoxyethoxy)-4-quinazolinamine, monohydrochloride
A slurry of the silyl compound, 6,7-bis(2-methoxyethoxy)-N-[3-[(trimethylsilyl)ethynyl]phenyl]-4-quinazolinamine monohydrochloride, prepared above (1.22 g, 2.43 mmol) in tetrahydrofuran (6.1 mL) was treated with a 1M solution of tetra-n-butylammonium fluoride in tetrahydrofuran (2.6 mL, 2.55 mmol) and stirred at room temperature for 1 hour. The solution was treated with 2-propanol (12.2 mL) and concentrated by evaporation. The oil in 2-propanol (20 mL) was treated with concentrated hydrochloric acid (0.2 mL) giving a precipitate. The mixture was stirred at room temperature for 1 hour. The solid was collected by filtration, washed with 2-propanol (2 mL) and dried in vacuo to afford the title product (747 mg, 72%) as an off white solid (mp 226-229° C.).

reactant | 6,7-bis(2-methoxyethoxy)-N-[3-[(trimethylsilyl)ethynyl]phenyl]-4-quinazolinamine monohydrochloride | Cl.COCCOC=1C=C2C(=NC=NC2=CC1OCCOC)NC1=CC(=CC=C1)C#C[Si](C)(C)C
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-propanol | 12.2 mL | CC(C)O | C3H8O
solvent | tetrahydrofuran | 6.1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.55 mmol, 2.6 mL | O1CCCC1 | C4H8O
product | N-(3-ethynylphenyl)-6,7-bis(2-methoxyethoxy)-4-quinazolinamine, monohydrochloride | 747 mg, 72% | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCOC | InChI=1S/C22H23N3O4.ClH/c1-4-16-6-5-7-17(12-16)25-22-18-13-20(28-10-8-26-2)21(29-11-9-27-3)14-19(18)23-15-24-22;/h1,5-7,12-15H,8-11H2,2-3H3,(H,23,24,25);1H
